US08258158B2
1-[(4-Methylphenyl)sulfonyl]-4-piperidinecarboxylic acid (0.283 g) and 2-chloro-4,6-dimethoxy-1,3,5-triazine (CDMT) in acetonitrile (40 ml) were treated at RT and under an argon atmosphere with N-methyl-morpholine (0.2 g) and the mixture was stirred for 2 h at RT. 4-trifluoromethoxy-aniline (0.176 g) was then added and stirring was continued for 20 h at RT until completion of the reaction. The reaction mixture was partitioned between ethyl acetate and aqueous 1M HCl, the layers were separated and the organic layer washed with 2M aqueous KHCO3 then dried over Na2SO4. The solvent was evaporated off, the residue purified by flash chromatography (AcOEt/heptane, gradient from 0 to 30%) to give 1-(toluene-4-sulfonyl)-piperidine-4-carboxylic acid (4-trifluoromethoxy-phenyl)-amide (0.298 g) as a white solid. MS (ESI): 443.1 (MH+).

reactant | 1-[(4-Methylphenyl)sulfonyl]-4-piperidinecarboxylic acid | 0.283 g | CC1=CC=C(C=C1)S(=O)(=O)N1CCC(CC1)C(=O)O | C13H17NO4S
reactant | 2-chloro-4,6-dimethoxy-1,3,5-triazine | ClC1=NC(=NC(=N1)OC)OC | C5H6ClN3O2
reactant | N-methyl-morpholine | 0.2 g | CN1CCOCC1 | C5H11NO
reactant | 4-trifluoromethoxy-aniline | 0.176 g | FC(OC1=CC=C(N)C=C1)(F)F | C7H6F3NO
solvent | acetonitrile | 40 ml | C(C)#N | C2H3N
product | 1-(toluene-4-sulfonyl)-piperidine-4-carboxylic acid (4-trifluoromethoxy-phenyl)-amide | 0.298 g | FC(OC1=CC=C(C=C1)NC(=O)C1CCN(CC1)S(=O)(=O)C1=CC=C(C=C1)C)(F)F | C20H21F3N2O4S
